US08021823B2
Synthesis of 2-(2-(2-methyl-2-adamantyloxy)-2-oxoethoxy)-2-oxoethanol
37.6 g (494 mmol) of glycolic acid, 700 mL of DMF, 86.5 g (626 mmol) of potassium carbonate, and 28.3 g (170 mmol) of potassium iodide were added to a 2 L three-neck flask equipped with a thermometer, a cooling pipe, and a stirring apparatus, and then stirred for 30 minutes at room temperature. Subsequently, a solution of 300 mL of dimethylformaldehyde with 100 g (412 mmol) of 2-methyl-2-adamantyl chloroacetate was gradually added thereto. Then, the resultant was heated at 40° C., and stirred for 4 hours. After the reaction, 2,000 mL of diethylether was added thereto and filtrated, thereby obtaining the solution (filtrate). The solution thus obtained was washed three times using 500 mL of distilled water. Thereafter, crystallization was conducted using a mixture solvent of 300 mL of toluene and 200 mL of heptane, thereby obtaining 78 g of the intended compound in the form of a colorless solid (yield: 67%, GC purity: 99%).

reactant | glycolic acid | 494 mmol, 37.6 g | C(CO)(=O)O | C2H4O3
reactant | potassium carbonate | 626 mmol, 86.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 170 mmol, 28.3 g | [I-].[K+]
reactant | 2-methyl-2-adamantyl chloroacetate | 412 mmol, 100 g | ClCC(=O)OC1(C2CC3CC(CC1C3)C2)C | C13H19ClO2
solvent | diethylether | 2,000 mL | C(C)OCC | C4H10O
solvent | dimethylformaldehyde | 300 mL | CC(=O)C | C3H6O
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | 2-(2-(2-methyl-2-adamantyloxy)-2-oxoethoxy)-2-oxoethanol | 78 g, yield: 67% | CC1(C2CC3CC(CC1C3)C2)OC(COC(CO)=O)=O | C15H22O5
